US08486952B2
2-chloro-N-methoxy-N-methyl-6-(methylamino)pyrimidine-4-carboxamide
To a suspension of methyl 2-chloro-6-(methylamino)pyrimidine-4-carboxylate (1.95 g) and N,O-dimethylhydroxylamine hydrochloride (1.887 g, 19.34 mmol) in THF at −20° C. was added isopropylmagnesium chloride (23.60 mL, 47.2 mmol) dropwise through a dropping funnel over a period of 30 min, and the reaction mixture was stirred at −10° C. for 40 min. The reaction was worked up with sat. NH4Cl and EtOAc, and the crude product was purified by Biotage eluting with 40-90% EtOAc/Hexanes to give the title compound as a colorless oil (786 mg). LC-MS (M+H)+=231.01.

reactant | methyl 2-chloro-6-(methylamino)pyrimidine-4-carboxylate | 1.95 g | ClC1=NC(=CC(=N1)C(=O)OC)NC | C7H8ClN3O2
reactant | N,O-dimethylhydroxylamine hydrochloride | 19.34 mmol, 1.887 g | Cl.CNOC
reactant | isopropylmagnesium chloride | 47.2 mmol, 23.60 mL | C(C)(C)[Mg]Cl
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-chloro-N-methoxy-N-methyl-6-(methylamino)pyrimidine-4-carboxamide | 786 mg | ClC1=NC(=CC(=N1)C(=O)N(C)OC)NC | C8H11ClN4O2
